US08138206B2
Production of 1-[3-(4-iodophenoxy)propyl]piperidine
1-[(3-chloropropyl)oxy]-4-iodobenzene (10 g, 33.7 mmol) and piperidine (2.87 g, 67.4 mmol) were mixed, and stirred at 85° C. for 4 hours. After cooled to room temperature, this was concentrated, and the residue was dissolved in ethyl acetate, washed with aqueous saturated sodium hydrogencarbonate solution and saturated saline, and the organic layer was dried with sodium sulfate. The solvent was evaporated off, and the residue was purified through silica gel column chromatography (eluate: ethyl acetate/hexane=50/50 to chloroform/methanol=10/1) to obtain the entitled compound (8.39 g, 72%) as a brown solid.

reactant | 1-[(3-chloropropyl)oxy]-4-iodobenzene | 33.7 mmol, 10 g | ClCCCOC1=CC=C(C=C1)I | C9H10ClIO
reactant | piperidine | 67.4 mmol, 2.87 g | N1CCCCC1 | C5H11N
product | 1-[3-(4-iodophenoxy)propyl]piperidine | 8.39 g, 72% | IC1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20INO
